US04703052
5-Formyl-2-methyl-2,3-dihydrobenzofuran
To a magnetically stirred solution of 680 mg (4.14 mmole) 5-hydroxymethyl-2-methyl-2,3-dihydrobenzofuran in 100 ml methylene dichloride was added 5.44 g manganese dioxide in one portion and the mixture stirred at room temperature overnight or until the reaction was complete as evidenced by thin-layer chromatography. The mixture was then filtered and the solvent evaporated to provide the title compound in quantitative yield. 1H-NMR(CDCl3)ppm(delta): 1.6 (d, 3H), 2.7-3.6 (m, 1H), 5.1 (m, 2H), 6.8 (d, 1H), 7.6 (m, 2H), 9.8 (s, 1H).

reactant | 5-hydroxymethyl-2-methyl-2,3-dihydrobenzofuran | 4.14 mmole, 680 mg | OCC=1C=CC2=C(CC(O2)C)C1 | C10H12O2
solvent | methylene dichloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 5.44 g | [O-2].[O-2].[Mn+4]
product | 5-Formyl-2-methyl-2,3-dihydrobenzofuran | quantitative yield | C(=O)C=1C=CC2=C(CC(O2)C)C1 | C10H10O2
